US07812028B2
Preparation of 5-(4-Chloro-phenyl)-N-((1R,2R)-2-hydroxy-cyclohexyl)-6-(2-methoxy-1-methyl-ethoxy)-nicotinamide
The title compound was synthesized in analogy to the procedure described for the preparation of Example 43, using 5-bromo-6-chloro-nicotinic acid methyl ester, 4-chlorophenyl-boronic acid (commercially available), rac-1-methoxy-2-propanol (commercially available), and (1R,2R)-2-amino-cyclohexanol (commercially available) as starting materials. MS (ISP): 419.1 (M+H+).

reactant | 5-bromo-6-chloro-nicotinic acid methyl ester | COC(C1=CN=C(C(=C1)Br)Cl)=O | C7H5BrClNO2
reactant | 4-chlorophenyl-boronic acid | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | rac-1-methoxy-2-propanol | COCC(C)O | C4H10O2
reactant | (1R,2R)-2-amino-cyclohexanol | N[C@H]1[C@@H](CCCC1)O | C6H13NO
product | 5-(4-Chloro-phenyl)-N-((1R,2R)-2-hydroxy-cyclohexyl)-6-(2-methoxy-1-methyl-ethoxy)-nicotinamide | ClC1=CC=C(C=C1)C=1C(=NC=C(C(=O)N[C@H]2[C@@H](CCCC2)O)C1)OC(COC)C | C22H27ClN2O4
